US09353108B2
A) Ethyl 4-bromo-3-ethoxy-5-hydroxybenzoate
Sodium hydride (60% oil, 3.86 g) was added to a DMF (100 mL) solution of ethyl 4-bromo-3,5-dihydroxybenzoate (12.3 g), and the mixture was stirred at 00° C. for 30 minutes in a nitrogen atmosphere. Iodoethane (4.15 mL) was added to the reaction mixture, and the mixture was stirred at room temperature for 2 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (8.87 g).

reactant | Sodium hydride | 3.86 g | [H-].[Na+]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | ethyl 4-bromo-3,5-dihydroxybenzoate | 12.3 g | BrC1=C(C=C(C(=O)OCC)C=C1O)O | C9H9BrO4
reactant | Iodoethane | 4.15 mL | ICC | C2H5I
solvent | Water | O | H2O
product | Ethyl 4-bromo-3-ethoxy-5-hydroxybenzoate | 8.87 g | BrC1=C(C=C(C(=O)OCC)C=C1O)OCC | C11H13BrO4
